US06423725B1
3-Methyl-1-[1-( 1-phenylcycloheptyl)-4-piperidinyl]-1,3-dihydro-2H-1,3-benzimidazol-2-one
To a stirred suspension of 1-[1-(1-phenylcycloheptyl)-4-piperidyl]-1,3-dihydro-2H-1,3-benzimidazol-2-one (116 mg, 0.298 mmol) in DMF (1 ml) was added NaH (60% oil suspension, 18 mg, 0.447 mmol) at rt. After 30 min stirring at rt, iodomethane (22.3 μl, 0.358 mmol) was added to the reaction mixture at rt. After 15 min stirring at rt, the reaction mixture was diluted with CH2Cl2, washed with water and brine, dried (Na2SO4), filtered, and concentrated to give pale yellow solid, which was purified by column chromatography (silica gel:5 g, hexane/ethyl acetate:5/1-3/1) to give 83 mg (69%) of white solid.

reactant | 1-[1-(1-phenylcycloheptyl)-4-piperidyl]-1,3-dihydro-2H-1,3-benzimidazol-2-one | 0.298 mmol, 116 mg | C1(=CC=CC=C1)C1(CCCCCC1)N1CCC(CC1)N1C(NC2=C1C=CC=C2)=O | C25H31N3O
reactant | NaH | 0.447 mmol, 18 mg | [H-].[Na+]
reactant | iodomethane | 0.358 mmol, 22.3 μl | IC | CH3I
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 3-Methyl-1-[1-( 1-phenylcycloheptyl)-4-piperidinyl]-1,3-dihydro-2H-1,3-benzimidazol-2-one | 83 mg, 69% | CN1C(N(C2=C1C=CC=C2)C2CCN(CC2)C2(CCCCCC2)C2=CC=CC=C2)=O | C26H33N3O
